US04007202
To a solution of 1-(1-methoxycarbonyl-2-methylprop-2-enyl)-3-phenoxyacetamido-4-phthalimidothio-azetidin-2-one 3.6 g (7 mmoles) in 230 ml of 1,2-dichloroethane were added 5 ml of propylene oxide and 1.9 g (10.5 mmoles) of N-bromosuccinimide. The mixture was irradiated under nitrogen for 2 hours at 14° C with a Hanovia TQ 150 mercury high pressure lamp using a Pyrex filter. After washing twice with 150 ml of a 0.067 molar aqueous potassium phosphate solution buffered to pH 5.8, washing twice with 100 ml of water, drying and treating with decolorizing charcoal, the reaction mixture was concentrated. After adding a mixture of ethyl acetate, diethyl ether and n - hexane, the precipitate was chromatographed on silica gel (methylene chloride ethyl acetate 9:1 (v/v) to obtain 1.3 g (2.4 mmoles; 34% yield) of 1-(1-methoxycarbonyl-2-bromomethylprop-2-enyl)-3-phenoxyacetamido-4-phthalimidothio-azetidin-2-one.

reactant | 1-(1-methoxycarbonyl-2-methylprop-2-enyl)-3-phenoxyacetamido-4-phthalimidothio-azetidin-2-one | 7 mmoles, 3.6 g | COC(=O)C(C(=C)C)N1C(C(C1SN1C(C=2C(C1=O)=CC=CC2)=O)NC(COC2=CC=CC=C2)=O)=O | C25H23N3O7S
reactant | propylene oxide | 5 ml | C1C(C)O1 | C3H6O
reactant | N-bromosuccinimide | 10.5 mmoles, 1.9 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | 1,2-dichloroethane | 230 ml | ClCCCl | C2H4Cl2
catalyst | mercury | [Hg] | Hg
product | 1-(1-methoxycarbonyl-2-bromomethylprop-2-enyl)-3-phenoxyacetamido-4-phthalimidothio-azetidin-2-one | 2.4 mmoles, 1.3 g, 34% yield | COC(=O)C(C(=C)CBr)N1C(C(C1SN1C(C=2C(C1=O)=CC=CC2)=O)NC(COC2=CC=CC=C2)=O)=O | C25H22BrN3O7S
